US04714776
A mixture of 3.35 g (0.010 mole) of 4'-cyano-3,5-di(tertiary-butyl)-4-hydroxybenzophenone, 25 ml of 20% aqueous sodium hydroxide solution and 25 ml of ethanol was heated at its reflux temperature for about 16 hours. The solution was extracted and washed twice with dichloromethane. The aqueous portion was poured into cold dilute hydrochloric acid and a white solid precipitated. The solid was collected by filtration and was washed with water. The solid was recrystallized from about 50 ml of ethanol with treatment with decolorizing charcoal to provide white solid 4'-carboxy-3,5-di(tertiary-butyl)-4-hydroxybenzophenone, m.p. 248.5°250.5° C. Analysis: Calculated for C22H26O4 : %C, 74.6; %H, 7.4; Found: %C, 74.7; %H, 7.5.

reactant | 4'-cyano-3,5-di(tertiary-butyl)-4-hydroxybenzophenone | 0.010 mole, 3.35 g | C(#N)C1=CC=C(C=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H25NO2
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 4'-carboxy-3,5-di(tertiary-butyl)-4-hydroxybenzophenone | C(=O)(O)C1=CC=C(C=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H26O4
